US06221876B1
Trans-N-t-Butyloxycarbonyl-6-Nitro-1-Amino-2-Hydroxyindane
To a solution of trans-6-nitro-1-amino-2-hydroxyindane (8.34 g, 42.9 mmol) in tetrahydrofuran (200 mL) was added a solution of di-t-butyldicarbonate (11.3 g, 51.5 mol) in tetrahydrofuran (50 mL). After stirring 1 hour at 25° C., the solvent was removed under reduced pressure and the resulting solid was recrystallized from ethyl acetate to afford 11.37 g of the title compound. (90%).

reactant | trans-6-nitro-1-amino-2-hydroxyindane | 42.9 mmol, 8.34 g | [N+](=O)([O-])C1=CC=C2C[C@H]([C@@H](C2=C1)N)O | C9H10N2O3
reactant | di-t-butyldicarbonate | 51.5 mol, 11.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Trans-N-t-Butyloxycarbonyl-6-Nitro-1-Amino-2-Hydroxyindane | 11.37 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC2=CC=C(C=C12)[N+](=O)[O-])O | C14H18N2O5
